US04139636
A solution of 6.5 g (0.03 mole) of 2,6-dichloro-benzoylisocyanate in 20 ml of toluene was added to 5.4 g (0.03 mole) of 4-trifluoromethoxy-aniline dissolved in 80 ml of toluene at 60° C. The batch was stirred for two hours at 80° C, a part of the solvent was distilled off in vacuo and the product which had precipitated was filtered off. After drying, 10 g (84.5% of theory) of analytically pure N-(4-trifluoromethoxyphenyl)-N'-(2,6-dichlorobenzoyl)-urea of melting point 202° C were obtained.

reactant | 2,6-dichloro-benzoylisocyanate | 0.03 mole, 6.5 g | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
reactant | 4-trifluoromethoxy-aniline | 0.03 mole, 5.4 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-trifluoromethoxyphenyl)-N'-(2,6-dichlorobenzoyl)-urea | FC(OC1=CC=C(C=C1)NC(=O)NC(C1=C(C=CC=C1Cl)Cl)=O)(F)F | C15H9Cl2F3N2O3
